US07205318B2
4-(2-oxopyridin-1(2H)-yl)benzoic acid (1 g, 4.6 mmol) was ]mixed with 10 mL of 1,2-dichloroethane. To this suspension was added SOCl2 (6 mL), and the mixture was refluxed for 1.5 h. The mixture was reduced in vacuo. The remaining traces of SOCl2 were removed by adding 1,2-dichloroethane (2×5 mL) and evaporating to dryness to yield 4-(2-oxopyridin-1(2H)-yl)benzoyl chloride as a white solid.

reactant | 4-(2-oxopyridin-1(2H)-yl)benzoic acid | 4.6 mmol, 1 g | O=C1N(C=CC=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO3
reactant | SOCl2 | 6 mL | O=S(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 4-(2-oxopyridin-1(2H)-yl)benzoyl chloride | O=C1N(C=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C12H8ClNO2
